US07964643B2
3-Bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide
Using a method analogous to that described in Example 1, 3-bromophenyl sulphonyl chloride was reacted with 5-aminopentanol, and the title compound obtained as a white solid after recrystallisation from ether/petrol.

reactant | 3-bromophenyl sulphonyl chloride | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 5-aminopentanol | NCCCCCO | C5H13NO
product | 3-Bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC(=CC=C1)Br | C11H16BrNO3S
